US06515004B1
N-Chloroacetyl-1-amino-3,3-dimethyl-2-butanone (180.13 g, 0.9398 mol, 1 eq) was combined with phosphorus oxychloride (262 mL, 2.8109 mol, 3 eq) under N2. The reaction mixture was heated at 105° C. for 1 h. The mixture was cooled to rt and then quenched with 1.3 kg of ice. The aqueous phase was extracted with ethyl acetate (1 L, then 2×500 mL). The organic extracts were washed with saturated aqueous NaHCO3 (4×1 L) which was back-extracted several times with ethyl acetate. The organic phases were combined, washed with saturated aqueous NaHCO3 (500 mL) followed by saturated aqueous NaCl (300 mL), dried over MgSO4, and concentrated in vacuo to give a brown oil. The crude material was distilled under high vacuum at 100° C. to provide 155.92 g (96%) of 5-t-butyl-2-chloromethyloxazole. HPLC R.T.=3.62 min (Phenomenex 5 μm C18 column 4.6×50 mm, 10-90% aqueous methanol over 4 minutes containing 0.2% phosphoric acid, 4 mL/min, monitoring at 220 nm).

reactant | N-Chloroacetyl-1-amino-3,3-dimethyl-2-butanone | 0.9398 mol, 180.13 g, 1 eq | ClCC(=O)NCC(C(C)(C)C)=O | C8H14ClNO2
reactant | phosphorus oxychloride | 2.8109 mol, 262 mL, 3 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-t-butyl-2-chloromethyloxazole | 155.92 g, 96% | C(C)(C)(C)C1=CN=C(O1)CCl | C8H12ClNO
